US06294558B1
To a solution of 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone (1.50 g, 4.42 mmol) in a mixture of ethanol (12 ml) and water (6 ml) were added hydroxylamine hydrochloride (615 mg, 8.84 mmol) and anhydrous sodium acetate (715 mg, 8.84 mmol) at room temperature. The mixture was heated for 2 h at 75° C. and then diluted with diethyl ether (200 ml), washed with water (50 ml×2) and saturated sodium bicarbonate (50 ml×2), and dried over magnesium sulfate. Removal of solvent gave 1.56 g (˜100%) of 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone oxime as an orange solid.

reactant | 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone | 4.42 mmol, 1.50 g | BrC1=CC=C(C=C1)C(CC1=CC(=C(C=C1)SC)F)=O | C15H12BrFOS
reactant | hydroxylamine hydrochloride | 8.84 mmol, 615 mg | Cl.NO
reactant | sodium acetate | 8.84 mmol, 715 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone oxime | 1.56 g, ~100% | BrC1=CC=C(C=C1)C(CC1=CC(=C(C=C1)SC)F)=NO | C15H13BrFNOS
